US09422331B2
To a rt solution of tert-butyl(S)-1-((2S,3S)-8-cyano-2-methyl-1-(2-(methylsulfonyl)acetyl)-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate (108 mg, 207 μmol) in DMF (518 μl) was added 1-(chloromethyl)-2-methoxynaphthalene (47.1 mg, 228 μmol), cesium carbonate (81.0 mg, 248 μmol), and sodium iodide (37.2 mg, 248 μmol). The reaction was stirred at rt for 1.5 h, then diluted with EtOAc, washed with H2O and sat. aq. NaCl, dried over Na2SO4, filtered, and concentrated. The crude material was purified by flash chromatography then reverse phase preparative HPLC to provide tert-butyl(S)-1-((3S,4S)-7-cyano-1-((2-methoxynaphthalen-1-yl)methyl)-4-methyl-5-(2-(methylsulfonyl)acetyl)-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate (55 mg, 38%) as a white solid. MS m/z 714 (MNa)+.

reactant | tert-butyl(S)-1-((2S,3S)-8-cyano-2-methyl-1-(2-(methylsulfonyl)acetyl)-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate | 207 μmol, 108 mg | C(#N)C=1C=CC2=C(N([C@H]([C@@H](C(N2)=O)NC([C@H](C)N(C(OC(C)(C)C)=O)C)=O)C)C(CS(=O)(=O)C)=O)C1 | C23H31N5O7S
reactant | 1-(chloromethyl)-2-methoxynaphthalene | 228 μmol, 47.1 mg | ClCC1=C(C=CC2=CC=CC=C12)OC | C12H11ClO
reactant | cesium carbonate | 248 μmol, 81.0 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | sodium iodide | 248 μmol, 37.2 mg | [I-].[Na+]
solvent | DMF | 518 μl | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl(S)-1-((3S,4S)-7-cyano-1-((2-methoxynaphthalen-1-yl)methyl)-4-methyl-5-(2-(methylsulfonyl)acetyl)-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate | 55 mg, 38% | C(#N)C1=CC2=C(N(C([C@H]([C@@H](N2C(CS(=O)(=O)C)=O)C)NC([C@H](C)N(C(OC(C)(C)C)=O)C)=O)=O)CC2=C(C=CC3=CC=CC=C23)OC)C=C1 | C35H41N5O8S
